US08349824B2
To an argon purged solution of ethyl 7-bromo-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate (1.76 g, 6.52 mmol) in dioxane (45 ml) are added tert-butyl carbamate (916 mg, 7.82 mmol), tris(dibenzylideneacetone)dipalladium(0) (119 mg, 130 μmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (151 mg, 261 μmol) and cesium carbonate (2.97 g, 9.12 mmol). The resulting mixture is heated to 110° C. and stirred for 20 hours. The reaction mixture is loaded on silica and purified by flash chromatography on a 50 g silica column using heptane/ethyl acetate 30-100% as eluent affording ethyl 7-(tert-butoxycarbonylamino)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate (1.07 g, 54%) as a light yellow solid. mp.: 220-2° C. MS: m/z=307.3 (M+H+).

reactant | ethyl 7-bromo-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate | 6.52 mmol, 1.76 g | BrC1=CC=2N(C=C1)N=C(N2)C(=O)OCC | C9H8BrN3O2
reactant | tert-butyl carbamate | 7.82 mmol, 916 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 9.12 mmol, 2.97 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 45 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 130 μmol, 119 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 261 μmol, 151 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | ethyl 7-(tert-butoxycarbonylamino)-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate | 1.07 g, 54% | C(C)(C)(C)OC(=O)NC1=CC=2N(C=C1)N=C(N2)C(=O)OCC | C14H18N4O4
